US05399703
Step 3 2-(2-Nitrophenylthio)benzonitrile
In a mixture of 12.7 g of pyridine and 80 ml of dioxane was suspended 8.8 g of 2-(2-nitrophenylthio)benzamide, followed by dropwise addition of 10.1 g of trifluoroacetic anhydride with ice-cooling, and the mixture was stirred for 1 hour. To the reaction mixture was added water and the crystals separated out therefrom were collected by filtration, washed with water and hot ethanol and dried. The procedure gave 7.84 g of the title compound as yellow crystals, m.p. 166°-167° C.

reactant | 2-(2-nitrophenylthio)benzamide | 8.8 g | [N+](=O)([O-])C1=C(C=CC=C1)SC1=C(C(=O)N)C=CC=C1 | C13H10N2O3S
reactant | trifluoroacetic anhydride | 10.1 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | O | H2O
solvent | pyridine | 12.7 g | N1=CC=CC=C1 | C5H5N
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 2-(2-Nitrophenylthio)benzonitrile | 7.84 g | [N+](=O)([O-])C1=C(C=CC=C1)SC1=C(C#N)C=CC=C1 | C13H8N2O2S
